### PR TITLE
chore: add `prodComm_trans_prodComm` for various cases

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Prod.lean [hunk 1]
```diff
@@ -674,6 +674,11 @@ theorem snd_comp_prodComm :
 @[simp]
 theorem symm_prodComm : (prodComm R M M₂).symm = prodComm R M₂ M := rfl
 
+@[simp]
+theorem trans_prodComm_prodComm : prodComm R M M₂ ≪≫ₗ prodComm R M₂ M = LinearEquiv.refl _ _ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Prod.lean]: I would expect
```suggestion
theorem prodComm_trans_prodComm : prodComm R M M₂ ≪≫ₗ prodComm R M₂ M = LinearEquiv.refl _ _ := by
```
since it's an infix operator

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 2]
```diff
@@ -394,6 +399,12 @@ def prodComm [Module R₁ M₂] : (M₁ × M₂) ≃L[R₁] M₂ × M₁ where
 
 @[simp] lemma prodComm_symm [Module R₁ M₂] : (prodComm R₁ M₁ M₂).symm = prodComm R₁ M₂ M₁ := rfl
 
+@[simp]
+theorem prodComm_trans_prodComm [Module R₁ M₂] :
+    (prodComm R₁ M₁ M₂).trans (prodComm R₁ M₂ M₁) = .refl _ _ := by
+  ext
+  all_goals simp
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: nit:
```suggestion
  ext <;> simp
```

**Review by YaelDillies — COMMENTED** [review]
I'm surprised there are only three of these. For example, `Homeomorph.prodComm` exists and is missing this lemma, right? Can you find all `prodComm`s in mathlib and add the lemma for them?

File: Mathlib/Logic/Equiv/Prod.lean [hunk 3]
```diff
@@ -97,6 +97,10 @@ theorem prodComm_apply {α β} (x : α × β) : prodComm α β x = x.swap :=
 theorem prodComm_symm (α β) : (prodComm α β).symm = prodComm β α :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm (α β) : (prodComm α β).trans (prodComm β α) = Equiv.refl _ := by
+  ext <;> simp
```
Comment (gasparattila) [inline Mathlib/Logic/Equiv/Prod.lean]:
```suggestion
@[simp]
theorem prodComm_trans_prodComm (α β) : (prodComm α β).trans (prodComm β α) = Equiv.refl _ :=
  rfl
```
I expect that `rfl` works for the other ones too.

**Comment by YaelDillies** [comment]
What about https://github.com/leanprover-community/mathlib4/pull/43923#discussion_r4056888234 ?

File: Mathlib/Algebra/Group/Prod.lean [hunk 4]
```diff
@@ -522,6 +522,10 @@ theorem coe_prodComm : ⇑(prodComm : M × N ≃* N × M) = Prod.swap :=
 theorem coe_prodComm_symm : ⇑(prodComm : M × N ≃* N × M).symm = Prod.swap :=
   rfl
 
+@[to_additive (attr := simp) prodComm_trans_prodComm]
+theorem prodComm_trans_prodComm : (prodComm : M × N ≃* N × M).trans prodComm = .refl _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Algebra/Group/Prod.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm : M × N ≃* N × M).trans prodComm = .refl _ := rfl
```

File: Mathlib/Algebra/Ring/Prod.lean [hunk 5]
```diff
@@ -272,6 +272,10 @@ theorem coe_prodComm : ⇑(prodComm : R × S ≃+* S × R) = Prod.swap :=
 theorem coe_prodComm_symm : ⇑(prodComm : R × S ≃+* S × R).symm = Prod.swap :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm : R × S ≃+* S × R).trans prodComm = .refl _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Algebra/Ring/Prod.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm : R × S ≃+* S × R).trans prodComm = .refl _ := rfl
```

File: Mathlib/Analysis/Normed/Operator/LinearIsometry.lean [hunk 6]
```diff
@@ -1036,6 +1036,11 @@ def prodComm [Module R E₂] : E × E₂ ≃ₗᵢ[R] E₂ × E :=
 theorem symm_prodComm [Module R E₂] : (prodComm R E E₂).symm = prodComm R E₂ E :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm [Module R E₂] :
+    (prodComm R E E₂).trans (prodComm R E₂ E) = .refl _ _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Analysis/Normed/Operator/LinearIsometry.lean]:
```suggestion
    (prodComm R E E₂).trans (prodComm R E₂ E) = .refl _ _ := rfl
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 7]
```diff
@@ -415,6 +415,10 @@ def prodComm : P₁ × P₂ ≃ᵃ[k] P₂ × P₁ where
 theorem prodComm_symm : (prodComm k P₁ P₂).symm = prodComm k P₂ P₁ :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm k P₁ P₂).trans (prodComm k P₂ P₁) = .refl _ _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm k P₁ P₂).trans (prodComm k P₂ P₁) = .refl _ _ := rfl
```

File: Mathlib/LinearAlgebra/Prod.lean [hunk 8]
```diff
@@ -674,6 +674,10 @@ theorem snd_comp_prodComm :
 @[simp]
 theorem symm_prodComm : (prodComm R M M₂).symm = prodComm R M₂ M := rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : prodComm R M M₂ ≪≫ₗ prodComm R M₂ M = .refl _ _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/LinearAlgebra/Prod.lean]:
```suggestion
theorem prodComm_trans_prodComm : prodComm R M M₂ ≪≫ₗ prodComm R M₂ M = .refl _ _ := rfl
```

File: Mathlib/Order/Hom/Basic.lean [hunk 9]
```diff
@@ -1014,6 +1014,10 @@ theorem coe_prodComm : ⇑(prodComm : α × β ≃o β × α) = Prod.swap :=
 theorem prodComm_symm : (prodComm : α × β ≃o β × α).symm = prodComm :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm : α × β ≃o β × α).trans prodComm = .refl _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Order/Hom/Basic.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm : α × β ≃o β × α).trans prodComm = .refl _ := rfl
```

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 10]
```diff
@@ -394,6 +399,11 @@ def prodComm [Module R₁ M₂] : (M₁ × M₂) ≃L[R₁] M₂ × M₁ where
 
 @[simp] lemma prodComm_symm [Module R₁ M₂] : (prodComm R₁ M₁ M₂).symm = prodComm R₁ M₂ M₁ := rfl
 
+@[simp]
+theorem prodComm_trans_prodComm [Module R₁ M₂] :
+    (prodComm R₁ M₁ M₂).trans (prodComm R₁ M₂ M₁) = .refl _ _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
    (prodComm R₁ M₁ M₂).trans (prodComm R₁ M₂ M₁) = .refl _ _ := rfl
```

File: Mathlib/Topology/Algebra/ContinuousAffineEquiv.lean [hunk 11]
```diff
@@ -440,6 +440,10 @@ def prodComm : P₁ × P₂ ≃ᴬ[k] P₂ × P₁ where
 theorem prodComm_symm : (prodComm k P₁ P₂).symm = prodComm k P₂ P₁ :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm k P₁ P₂).trans (prodComm k P₂ P₁) = .refl _ _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/ContinuousAffineEquiv.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm k P₁ P₂).trans (prodComm k P₂ P₁) = .refl _ _ := rfl
```

File: Mathlib/Topology/Constructions/SumProd.lean [hunk 12]
```diff
@@ -695,6 +695,10 @@ theorem prodComm_symm : (prodComm X Y).symm = prodComm Y X :=
 theorem coe_prodComm : ⇑(prodComm X Y) = Prod.swap :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm X Y).trans (prodComm Y X) = .refl _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Topology/Constructions/SumProd.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm X Y).trans (prodComm Y X) = .refl _ := rfl
```

File: Mathlib/Topology/UniformSpace/Equiv.lean [hunk 13]
```diff
@@ -262,6 +262,10 @@ theorem prodComm_symm : (prodComm α β).symm = prodComm β α :=
 theorem coe_prodComm : ⇑(prodComm α β) = Prod.swap :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm : (prodComm α β).trans (prodComm β α) = .refl _ := by
+  ext <;> simp
```
Comment (mcdoll) [inline Mathlib/Topology/UniformSpace/Equiv.lean]:
```suggestion
theorem prodComm_trans_prodComm : (prodComm α β).trans (prodComm β α) = .refl _ := rfl
```

File: Mathlib/Logic/Equiv/Prod.lean [hunk 14]
```diff
@@ -97,6 +97,10 @@ theorem prodComm_apply {α β} (x : α × β) : prodComm α β x = x.swap :=
 theorem prodComm_symm (α β) : (prodComm α β).symm = prodComm β α :=
   rfl
 
+@[simp]
+theorem prodComm_trans_prodComm (α β) : (prodComm α β).trans (prodComm β α) = Equiv.refl _ :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Logic/Equiv/Prod.lean]: nit:
```suggestion
theorem prodComm_trans_prodComm (α β) : (prodComm α β).trans (prodComm β α) = .refl _ := rfl
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate
